US06599893B2
(7R)-7-[2-(2-Amino-5-chlorothiazol-4-yl)-2-hydroxyiminoacetylamino]-3-(5-amino-[1,3,4]thiadiazol-2-ylsulfanyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid sodium salt (36 sodium salt)
(7R)-7-[2-(2-Amino-5-chlorothiazol-4-yl)-2-hydroxyiminoacetylamino]-3-(5-amino-[1,3,4]thiadiazol-2-ylsulfanyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid (85 mg, 0.11 mmol) was dissolved in water (2.0 mL) and the pH was adjusted to 6.0 with 1.0 M aqueous sodium bicarbonate. The solution was loaded onto an HP20 column and inorganics were removed by washing the column thoroughly with water. The title compound was isolated by eluting with 2:1 acetonitrile/water, removing acetonitrile under reduced pressure and lyophilizing the remaining mixture (60 mg, 63%).

reactant | (7R)-7-[2-(2-Amino-5-chlorothiazol-4-yl)-2-hydroxyiminoacetylamino]-3-(5-amino-[1,3,4]thiadiazol-2-ylsulfanyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.11 mmol, 85 mg | NC=1SC(=C(N1)C(C(=O)N[C@H]1C2SCC(=C(N2C1=O)C(=O)O)SC=1SC(=NN1)N)=NO)Cl | C14H11ClN8O5S4
reactant | sodium bicarbonate | 1.0 M | C([O-])(O)=O.[Na+]
solvent | water | 2.0 mL | O | H2O
product | (7R)-7-[2-(2-Amino-5-chlorothiazol-4-yl)-2-hydroxyiminoacetylamino]-3-(5-amino-[1,3,4]thiadiazol-2-ylsulfanyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid sodium salt | [Na+].NC=1SC(=C(N1)C(C(=O)N[C@H]1C2SCC(=C(N2C1=O)C(=O)[O-])SC=1SC(=NN1)N)=NO)Cl | InChI=1S/C14H11ClN8O5S4.Na/c15-7-3(19-12(16)31-7)4(22-28)8(24)18-5-9(25)23-6(11(26)27)2(1-29-10(5)23)30-14-21-20-13(17)32-14;/h5,10,28H,1H2,(H2,16,19)(H2,17,20)(H,18,24)(H,26,27);/q;+1/p-1/t5-,10?;/m1./s1
